US07326788B2
5-(6-Chloro-2-oxo-4-phenyl-1,2-dihydro-quinolin-3-yl)-isoxazole-3-carbonitrile
To a solution of 5-(6-chloro-2-oxo-4-phenyl-1,2-dihydro-quinolin-3-yl)-isoxazole-3-carboxaldehyde in MeOH (20 mL), aq. NH2OH (1 mmol) was added. The resulting mixture was stirred at RT for 2 hr. The reaction mixture was concentrated and water (20 mL) was added. The precipitate formed was then collected by suction filtration and dried in vacuo. Above oxime (365 mg, 1 mmol) was dissolved in pyridine (10 mL) and acetic anhydride (0.3 mL, 2 mmol) was added. The resulting mixture was stirred overnight and concentrated. The residue obtained was purified with (30% EtOAc:Hexane) to obtain the title compound. Yield 67%.

reactant | 5-(6-chloro-2-oxo-4-phenyl-1,2-dihydro-quinolin-3-yl)-isoxazole-3-carboxaldehyde | ClC=1C=C2C(=C(C(NC2=CC1)=O)C1=CC(=NO1)C=O)C1=CC=CC=C1 | C19H11ClN2O3
reactant | NH2OH | 1 mmol | NO | H3NO
reactant | acetic anhydride | 2 mmol, 0.3 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | MeOH | 20 mL | CO | CH4O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 5-(6-Chloro-2-oxo-4-phenyl-1,2-dihydro-quinolin-3-yl)-isoxazole-3-carbonitrile | Yield 67% | ClC=1C=C2C(=C(C(NC2=CC1)=O)C1=CC(=NO1)C#N)C1=CC=CC=C1 | C19H10ClN3O2
